US08686002B2
4. 6-Methoxy-3-(2-methoxybenzyl)quinolin-2-amine
(2-Amino-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone (1.1 g, 3.6 mmol) was dissolved in diethylene glycol (15 mL), mixed with hydrazine hydrate (0.56 mL, 18 mmol) and pulverized potassium hydroxide (1.1 g, 19.8 mmol) and heated to 160° C. for 1.5 hours.

reactant | (2-Amino-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone | 3.6 mmol, 1.1 g | NC1=NC2=CC=C(C=C2C=C1C(=O)C1=C(C=CC=C1)OC)OC | C18H16N2O3
reactant | hydrazine hydrate | 18 mmol, 0.56 mL | O.NN
reactant | potassium hydroxide | 19.8 mmol, 1.1 g | [OH-].[K+]
solvent | diethylene glycol | 15 mL | C(COCCO)O | C4H10O3
product | 6-Methoxy-3-(2-methoxybenzyl)quinolin-2-amine | COC=1C=C2C=C(C(=NC2=CC1)N)CC1=C(C=CC=C1)OC | C18H18N2O2
